US07414060B2
3-(2,5-Dimethyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide
The title compound, was prepared from 3-(2,5-Dimethyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester and 4-Amino-2-methylthiazole in accordance with the general method of Example 78, step 2 to yield the final compound as a light-yellow solid, MS (ISP): m/e=343.0 (M+H+).

reactant | 3-(2,5-Dimethyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C)C)C | C14H18N4O2
reactant | 4-Amino-2-methylthiazole | NC=1N=C(SC1)C | C4H6N2S
product | 3-(2,5-Dimethyl-2H-pyrazol-3-ylamino)-6-methyl-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide | CC=1SC=C(N1)NC(=O)C1=NC(=CC=C1NC=1N(N=C(C1)C)C)C | C16H18N6OS
